US06903086B2
To a solution of (5-bromo-benzofuran-2-yl)-methanol (1 g, 4.4 mmol) and 2-tributylstannylpyrazine (1.6 g, 3.7 mmol) in 15 mL toluene at room temperature under argon, was added tetrakis(triphenylphosphine)palladium (0) (130 mg), and the mixture was heated at 95° C. overnight. The precipitate was allowed to cooled, extracted with ethyl acetate, washed with brine and dried over MgSO4. Filtration afforded 2.1 g of crude product that was further purified by chromatography to afford (5-pyrazin-2-yl-benzofuran-2-yl)-methanol.

reactant | (5-bromo-benzofuran-2-yl)-methanol | 4.4 mmol, 1 g | BrC=1C=CC2=C(C=C(O2)CO)C1 | C9H7BrO2
reactant | 2-tributylstannylpyrazine | 3.7 mmol, 1.6 g | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 130 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5-pyrazin-2-yl-benzofuran-2-yl)-methanol | N1=C(C=NC=C1)C=1C=CC2=C(C=C(O2)CO)C1 | C13H10N2O2
